US04803197
To a solution of methyl 2-(methylsulfonylamino)phenylacetate (2.00 kg) in dimethylformamide (10 l), under an atmosphere of nitrogen, is added 4-chlorobenzyl chloride (1.37 kg) all at once, followed by anhydrous potassium carbonate (1.18 kg). The mixture is heated at 75° and stirred for 4 hours, then cooled to room temperature overnight at which time it is poured into water (50 l). The resulting precipitate is dissolved in dichloromethane (4 l). The dichloromethane solution is washed with brine (500 ml), dried over anhydrous magnesium sulfate and filtered. The filtrate is evaporated in vacuo to give a solid which is air-dried overnight and vacuum-dried (0.3 mm Hg) at room temperature to yield methyl 2-[N-(4-chlorophenylmethyl)-methylsulfonylamino]phenylacetate mp 73°-75°.

reactant | methyl 2-(methylsulfonylamino)phenylacetate | 2.00 kg | CS(=O)(=O)NC1=C(C=CC=C1)CC(=O)OC | C10H13NO4S
reactant | 4-chlorobenzyl chloride | 1.37 kg | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
reactant | potassium carbonate | 1.18 kg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 50 l | O | H2O
solvent | dimethylformamide | 10 l | CN(C=O)C | C3H7NO
solvent | dichloromethane | 4 l | ClCCl | CH2Cl2
product | methyl 2-[N-(4-chlorophenylmethyl)-methylsulfonylamino]phenylacetate | ClC1=CC=C(C=C1)CN(C1=C(C=CC=C1)CC(=O)OC)S(=O)(=O)C | C17H18ClNO4S
